US06624158B2
Methyl 9-[(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-(2-ethyl-2H-tetraazol-5-yl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
A suspension of methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 29) (0.4 g, 1.07 mmol) in 1,1,1-trichloroethane (25 ml) was treated with N,O-bis(trimethylsilylacetamide) (1.6 ml, 6.54 mmol) and the mixture was heated under reflux for one hour. The solvent was removed under reduced pressure and the residue was twice azeotroped with toluene. The residue was dissolved in toluene (5 ml) and treated sequentially with a solution of (2R,3R,4R)-4,5-bis(acetyloxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (WO-A-9967265) (0.45 g, 1.31 mmol) in toluene (20 ml) and then trimethylsilyltriflate (0.25 ml, 1.37 mmol). The mixture was heated under reflux for 3 hours and then allowed to stand at room temperature overnight. The solution was diluted with ethyl acetate (40 ml), washed sequentially with saturated aqueous sodium hydrogen carbonate solution (20 ml) and brine (20 ml), dried (anhydrous magnesium sulphate) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (80:20 by volume) gradually changing to dichloromethane:ethyl acetate (60:40 by volume) to afford the title compound (0.44 g).

reactant | methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 1.07 mmol, 0.4 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)OC)C1=CC=CC=C1 | C21H19N5O2
reactant | (2R,3R,4R)-4,5-bis(acetyloxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | 1.31 mmol, 0.45 g | C(C)(=O)O[C@@H]1[C@H](OC([C@@H]1OC(C)=O)OC(C)=O)C=1N=NN(N1)CC | C13H18N4O7
reactant | trimethylsilyltriflate | 1.37 mmol, 0.25 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | 1,1,1-trichloroethane | 25 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 9-[(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-(2-ethyl-2H-tetraazol-5-yl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.44 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C32H33N9O7
